US07538121B2
N-Quinolin-6-yl-1,1′-biphenyl-4-carboxamide
Using the procedure outlined in Example 56, the title compound was prepared from 6-aminoquinoline (72 mg, 0.75 mmol) and 4-biphenylcarboxylic acid (149 mg, 0.75 mmol) as a white solid. 1H NMR (400 MHz, CDCl3) δ (ppm): 9.22 (d, 1H), 8.88 (dd, 1H), 8.52 (d, 1H), 8.33 (dd, 1H), 8.19 (d, 1H), 8.13 (d, 1H), 8.09 (d, 1H), 8.08 (m, 3H), 7.91 (d, 1H), 7.72 (dd, 1H), 7.52 (m, 3H), 7.43 (dd, 1H).

reactant | 6-aminoquinoline | 0.75 mmol, 72 mg | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | 4-biphenylcarboxylic acid | 0.75 mmol, 149 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
product | N-Quinolin-6-yl-1,1′-biphenyl-4-carboxamide | N1=CC=CC2=CC(=CC=C12)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C22H16N2O
